US05106873
(b) N-[2-amino-1-methyl-1-(2-pyridyl)ethyl]-4-methoxybenzamide
N-[-1-cyano-1-(2-pyridinyl)ehtyl]-4-methoxy-benzamide (4.7 g, 0.0167 mole) was dissolved in 100 mL methanolic ammonia and treated with 1.5 g Raney nickel under 50 psi and warmed to 40° C. for 10 hours. The mixture was filtered and the supernate concentrated in vacuo to yield a pale green oil. The crude product (2.3 g) was used in the next step without further purification.

reactant | N-[-1-cyano-1-(2-pyridinyl)ehtyl]-4-methoxy-benzamide | 0.0167 mole, 4.7 g | C(#N)C(C)(C1=NC=CC=C1)NC(C1=CC=C(C=C1)OC)=O | C16H15N3O2
solvent | ammonia | 100 mL | N | H3N
catalyst | Raney nickel | 1.5 g | [Ni] | Ni
product | N-[2-amino-1-methyl-1-(2-pyridyl)ethyl]-4-methoxybenzamide | NCC(C1=NC=CC=C1)(C)NC(C1=CC=C(C=C1)OC)=O | C16H19N3O2
